US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-isopropyl-benzamide
The title compound (7 mg, 17%) was prepared analogously to example 8 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 4-isopropylbenzoic acid. MS: 415.5 (MH+)

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 4-isopropylbenzoic acid | C(C)(C)C1=CC=C(C(=O)O)C=C1 | C10H12O2
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-4-isopropyl-benzamide | 7 mg, 17% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC=C(C=C2)C(C)C)=O)C=C1)OCC | C24H31ClN2O2
